US03956260
40. H-Arg-Phe-Ser(tBu)-Gly-OCH3 hydrochloride-hydrobromide
6.3 g of Z-Arg-Phe-Ser(tBu)-Gly-OCH3 hydrobromide (8.5 mmols) are dissolved in 350 ml of methanol and 2.9 ml of hydrogen chloride in dioxane (3.09 N, 8.9 mmols) are added. The mixture is hydrogenated in the presence of 1.2 g of 10 % strength palladium-charcoal at room temperature and atmospheric pressure. After completion of the hydrogen uptake the solution is filtered and evaporated and the resulting residue is dissolved in 30 ml of methanol and the solution stirred into 700 ml of ether. Thereby a yellowish paste is produced which is again dissolved and precipitated in the same manner.

reactant | Z-Arg-Phe-Ser(tBu)-Gly-OCH3 hydrobromide | 8.5 mmols, 6.3 g | N([C@@H](CCCNC(N)=N)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](COC(C)(C)C)C(=O)NCC(=O)OC)C(=O)OCC1=CC=CC=C1.Br
reactant | hydrogen chloride | 2.9 ml | Cl | ClH
reactant | dioxane | 8.9 mmols, 3.09 N | O1CCOCC1 | C4H8O2
solvent | methanol | 350 ml | CO | CH4O
catalyst | palladium-charcoal | [Pd] | Pd
product | H-Arg-Phe-Ser(tBu)-Gly-OCH3 hydrochloride-hydrobromide | N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](COC(C)(C)C)C(=O)NCC(=O)OC.Cl.Br | InChI=1S/C25H41N7O6.BrH.ClH/c1-25(2,3)38-15-19(22(35)30-14-20(33)37-4)32-23(36)18(13-16-9-6-5-7-10-16)31-21(34)17(26)11-8-12-29-24(27)28;;/h5-7,9-10,17-19H,8,11-15,26H2,1-4H3,(H,30,35)(H,31,34)(H,32,36)(H4,27,28,29);2*1H/t17-,18-,19-;;/m0../s1
